US07074817B2
Methyl 2-[6-(4-trifluoromethoxyphenyl)-1-methyl-1H-indol-3-yl]-2-oxoacetate
To a solution of 6-(4-trifluoromethoxyphenyl)-1-methyl-1H-indole (0.304 g, 1.04 mmol) in dry THF (5 mL) under nitrogen at 0° C. was added oxalyl chloride (0.11 ml, 1.2 mmol). The reaction mixture was stirred at room temperature for 2 hour. The mixture was cooled in an ice bath. Methanol (1 mL) was added. The reaction mixture was stirred at room temperature for 1 hour then poured into excess sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated to dryness. The residue was purified by flash chromatography (Biotage apparatus) using 20-50% ethyl acetate in hexane as an eluant. The title compound was obtained as a cream-colored solid (0.196 g, 50%), mp: 152-153° C. Mass spectrum (+APCI, [M+H]+) m/z 378; 1HNMR (400 MHz, DMSO-d6): δ 8.55 (s, 1H), 8.2 (d, 1H, J=8.3 Hz), 7.95 (t, 1H, J=0.77 Hz), 7.90-7.95 (m, 2H,), 7.65 (dd, 1H, J=8.3 Hz and 1.5 Hz), 7.45 (d, 2H, J=8.6 Hz), 4.0 (s, 3H), and 3.9 ppm (m, 3H).

reactant | 6-(4-trifluoromethoxyphenyl)-1-methyl-1H-indole | 1.04 mmol, 0.304 g | FC(OC1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)C)(F)F | C16H12F3NO
reactant | oxalyl chloride | 1.2 mmol, 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Methanol | 1 mL | CO | CH4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 2-[6-(4-trifluoromethoxyphenyl)-1-methyl-1H-indol-3-yl]-2-oxoacetate | FC(OC1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C)C(C(=O)OC)=O)(F)F | C19H14F3NO4
